US08378104B2
A 2:1 mixture of 4-iodo-2-(1-methyl-1H-pyrazolo[3,4-c]pyridin-3-yl)furo[2,3-c]pyridin-7-amine and 4-iodo-2-(2-methyl-2H-pyrazolo[3,4-c]pyridin-3-yl)furo[2,3-c]pyridin-7-amine (0.042 g, 0.102 mmol) and 1-{4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidin-1-yl}ethanone (0.041 g, 0.13 mmol) were dissolved in 1,4-dioxane (2 mL) and water (0.8 mL). The mixture was degassed with nitrogen for 10 min. To this mixture was added potassium carbonate (0.0530 g, 0.383 mmol) and 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) dichloride dichloromethane adduct (0.0104 g, 0.0128 mmol), and the mixture was heated to 80° C. for 5 h. Purification of the residue by MDP afforded 0.0143 g (29%) of 1-(4-{4-[7-amino-2-(1-methyl-1H-pyrazolo[3,4-c]pyridin-3-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}piperidin-1-yl)pethanone as a yellow gum (Ex. 363), and 0.0075 g (30%) 1-(4-{4-[7-amino-2-(2-methyl-2H-pyrazolo[3,4-c]pyridin-3-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}piperidin-1-yl)ethanone as a yellow gum (Ex. 364). 1-(4-{4-[7-amino-2-(1-methyl-1H-pyrazolo[3,4-c]pyridin-3-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}piperidin-1-yl)ethanone: 1H NMR (400 MHz, CD3OD): δ 9.77 (s, 1 H), 9.11 (d, J=5.8 Hz, 1 H), 8.60 (d, J=6.3 Hz, 1 H), 8.35 (s, 1 H), 8.03 (d, J=0.5 Hz, 1 H), 7.97 (s, 1 H), 7.89 (s, 1 H), 4.76-4.67 (m, 1 H), 4.61 (tt, J=4.1, 11.4 Hz, 1 H), 4.51 (s, 3 H), 4.18-4.09 (m, 1 H), 3.44-3.35 (m, 1 H), 2.90 (dt, J=2.5, 13.0 Hz, 1 H), 2.33-2.21 (m, 2 H), 2.20 (s, 3 H), 2.18-2.10 (m, 1 H), 2.10-1.98 (m, 1 H); MS (ESI): 457.37 [M+H]+; HPLC tR=2.23 min. 1-(4-{4-[7-amino-2-(2-methyl-2H-pyrazolo[3,4-c]pyridin-3-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}piperidin-1-yl)ethanone: 1H NMR (400 MHz, CD3OD): δ 9.85 (s, 1 H), 8.90 (d, J=6.6 Hz, 1 H), 8.39 (d, J=6.8 Hz, 1 H), 8.35 (s, 1 H), 8.07 (s, 1 H), 7.97 (s, 1 H), 7.91 (s, 1 H), 4.83 (s, 3 H), 4.73-4.65 (m, 1 H), 4.59 (tt, J=4.2, 11.4 Hz, 1 H), 4.16-4.07 (m, 1 H), 3.41-3.32 (m, 1 H), 2.88 (dt, J=2.5, 12.9 Hz, 1 H), 2.29-2.18 (m, 2 H), 2.17 (s, 3 H), 2.16-2.08 (m, 1 H), 2.08-1.95 (m, 1 H); MS (ESI): 457.37 [M+H]+; HPLC tR=2.14 min.

reactant | 4-iodo-2-(1-methyl-1H-pyrazolo[3,4-c]pyridin-3-yl)furo[2,3-c]pyridin-7-amine | IC1=C2C(=C(N=C1)N)OC(=C2)C2=NN(C1=CN=CC=C12)C | C14H10IN5O
reactant | 4-iodo-2-(2-methyl-2H-pyrazolo[3,4-c]pyridin-3-yl)furo[2,3-c]pyridin-7-amine | 0.102 mmol, 0.042 g | IC1=C2C(=C(N=C1)N)OC(=C2)C=2N(N=C1C=NC=CC12)C | C14H10IN5O
reactant | 1-{4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidin-1-yl}ethanone | 0.13 mmol, 0.041 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(C)=O)C | C16H26BN3O3
reactant | potassium carbonate | 0.383 mmol, 0.0530 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.8 mL | O | H2O
product | 1-(4-{4-[7-amino-2-(2-methyl-2H-pyrazolo[3,4-c]pyridin-3-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}piperidin-1-yl)ethanone | 0.0075 g, 30% | NC=1N=CC(=C2C1OC(=C2)C=2N(N=C1C=NC=CC12)C)C=1C=NN(C1)C1CCN(CC1)C(C)=O | C24H24N8O2
